US06960586B2
By a ring closure reaction, a detritylation reaction and purification in the same manner as in Example 1 using methyl 3-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate (0.95 g) and hydrazine monohydrate (0.50 ml), 7-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-3,4-dihydrobenzo[g]phthalazin-1(2H)-one (0.05 g) was obtained as a colorless amorphous solid and 7-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]benzo[g]phthalazin-1(2H)-one (5 mg) was obtained as a colorless amorphous solid.

reactant | methyl 3-bromomethyl-6-[1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl]-2-naphthoate | 0.95 g | BrCC=1C(=CC2=CC=C(C=C2C1)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(=O)OC | C39H35BrN2O3
reactant | hydrazine monohydrate | 0.50 ml | O.NN
product | 7-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl]-3,4-dihydrobenzo[g]phthalazin-1(2H)-one | 0.05 g | OC(C(C)C)(C=1N=CNC1)C1=CC=2C(=CC=3C(NNCC3C2)=O)C=C1 | C19H20N4O2
